US06849632B2
1-(tert-butoxycarbonyl)-2-tert-butyl-3-methyl-4-imidazolidinone (2 g, 8.3 mmol) (BOC—ON), in chloroform (15 ml), was added to (2S)-2-methylpiperazine (5 g, 50 mmol), a compound of formula (A), in a mixture of triethylamine (1.25 g, 12.5 mmol) and chloroform. The mixture was stirred for about 15 hours and then washed with water, the solvent removed in vacuo. The residue was purified by column chromatography, to give tert-butyl (3S)-3-methylpiperazinecarboxylate, a compound of formula (B).

reactant | 1-(tert-butoxycarbonyl)-2-tert-butyl-3-methyl-4-imidazolidinone | 8.3 mmol, 2 g | C(C)(C)(C)OC(=O)N1C(N(C(C1)=O)C)C(C)(C)C | C13H24N2O3
reactant | (2S)-2-methylpiperazine | 50 mmol, 5 g | C[C@@H]1NCCNC1 | C5H12N2
reactant | triethylamine | 12.5 mmol, 1.25 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl (3S)-3-methylpiperazinecarboxylate | C[C@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
